* C:\Users\Lex Leung\OneDrive\Desktop\SFU Work\ENSC 425\NTSCPrject\postFailure.asc
* Generated by LTspice 24.1.9 for Windows.
V1 in 0 PWL file=ntsc_lines_4_to_6.pwl.txt
R1 0 in 75
R2 N020 in 680
C12 N020 0 47p
R8 N022 N025 1k
R9 Vcc N025 100k
R11 N025 0 1k
R12 Csync N022 100k
Rpull Vcc Csync 5k
V2 Vcc 0 12
V3 0 Vee 12
X§U1 N022 N021 Vcc 0 Csync LM311
R31 N021 0 10Meg
R3 N027 Csync 10k
C1 N027 0 33p
R24 N021 N024 1k
D1 N024 N023 1N4148
C2 N023 0 100n
X§U7 0 N023 Vcc Vee N024 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R4 N026 N030 15k
R5 Vcc N030 100k
R6 N030 0 1k
R7 Vsync N026 150k
Rpull1 Vcc Vsync 2.2k
X§U2 N027 N026 Vcc 0 Vsync LM311
R28 Vsync 0 15k
R29 Vcc Vsync 10k
X§U9 0 N031 NC_01 Vcc N032 Vsync N031 Vcc NE555
C18 0 N032 10n
Q8 N031 N029 N028 0 2N3906
Q9 N028 N028 Vcc 0 2N3906
Q10 N029 N028 Vcc 0 2N3906
R30 N029 0 10k
C19 N031 0 33n
C20 N033 N031 1µ
X§U3 0 N034 N036 Vcc N037 N035 N035 Vcc NE555
R34 Vcc P001 5k
R35 P001 0 1k
X§U10 0 N007 N009 Vcc N010 N008 N008 Vcc NE555
C15 N010 0 10n
R32 Vcc N008 10k
C17 0 N008 1n
Q13 N007 P002 0 0 NPN
R26 P002 N006 1k
R33 Vcc N007 10k
X§U8 0 N001 N004 Vcc N005 N002 N002 Vcc NE555
C11 N005 0 10n
R36 Vcc N002 12k
C14 0 N002 100n
Q14 N001 P003 0 0 NPN
R37 P003 Vsync 1k
R38 Vcc N001 10k
D2 N004 N003 D
D3 N009 N003 D
R45 N003 0 10k
R22 Vcc VDR 1Meg
Q1 VDR N033 0 0 PNP
V4 P004 0 PULSE(0 12 0 1n 1n 4u 63.5u)
R17 P005 P004 1k
Q12 N006 P005 0 0 NPN
R18 Vcc N006 10k
R15 N011 N018 1k
D4 N018 N017 1N4148
C9 N017 0 100n
X§U4 0 N017 Vcc 0 N018 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
C10 N011 in 1n
X§U6 N011 N012 Vcc 0 N016 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
D5 N016 N013 1N4148
R16 N012 0 1k
R27 N013 N012 10k
C21 N013 0 47µ
R46 N013 0 1k
R47 N014 N013 1k
X§U11 N019 N014 Vcc 0 N015 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R48 N015 N014 20k
R49 Vcc N015 100k
R50 N019 Vcc 60k
R51 0 N019 1k
R19 0 N024 1Meg
C5 N020 N021 33µ
Rdelay Vcc N035 5k
Cdelay 0 N035 33p
C3 N037 0 10n
C4 N036 N038 100p
R10 N038 Vcc 10k
X§U5 0 N038 Hsync Vcc N041 N040 N040 Vcc NE555
Rpulse Vcc N040 2.2k
Cpulse 0 N040 1n
C7 N041 0 10n
R13 N034 0 22k
C6 N034 Csync 470p
.model D D
.lib C:\Users\Lex Leung\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Lex Leung\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 300u
.inc LM311.sub
.inc LM311.sub
* if don't want to use second power source, set 1:5 ratio on + and ground vee
* broken IC
* terrible clamp
* test between LF356 and TL052
* redundant?
* redundant?
* test if Vee or gnd
* Bypass capacitor, so only falling edge is seen
.lib NE555.sub
.lib UniversalOpAmp2.lib
.backanno
.end
