* C:\Users\Lex Leung\OneDrive\Desktop\SFU Work\ENSC 425\NTSCPrject\postFailure.asc
* Generated by LTspice 24.1.9 for Windows.
V1 in 0 PWL file=ntsc_lines_4_to_6.pwl.txt
R1 0 in 75
R2 N017 in 680
C12 N017 0 470p
R8 N019 N022 1k
R9 Vcc N022 100k
R11 N022 0 1k
R12 Csync N019 150k
Rpull Vcc Csync 2.2k
V2 Vcc 0 12
V3 0 Vee 12
X§U1 N019 N018 Vcc 0 Csync LM311
R31 N018 0 10Meg
R3 N024 Csync 5k
C1 N024 0 470p
R24 N018 N021 1k
D1 N021 N020 1N4148
C2 N020 0 100n
X§U7 0 N020 Vcc Vee N021 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R4 N023 N025 2k
R5 Vcc N025 10k
R6 N025 0 10k
R7 Vsync N023 150k
Rpull1 Vcc Vsync 50k
X§U2 N024 N023 Vcc 0 Vsync LM311
X§U3 0 N026 N028 Vcc N029 N027 N027 Vcc NE555
R34 Vcc P001 5k
R35 P001 0 1k
R19 0 N021 1Meg
C5 N017 N018 33µ
Rdelay Vcc N027 6k
Cdelay 0 N027 1n
C3 N029 0 10n
C4 N028 N030 100p
R10 N030 Vcc 10k
X§U5 0 N030 N033 Vcc N034 N032 N032 Vcc NE555
Rpulse Vcc N032 5k
Cpulse 0 N032 1n
C7 N034 0 10n
R13 N026 0 10k
C6 N026 Csync 470p
R14 N033 Hsync 5k
R20 Hsync 0 1k
R17 Vcc N026 22k
X§U8 0 Vsync N002 Vcc P002 N001 N001 Vcc NE555
R18 Vcc Vsync 10k
C8 0 P002 10n
R21 Vcc N001 12k
C11 0 N001 100n
Q1 N004 N006 0 0 NPN
Q2 N004 P003 0 0 NPN
R22 Vcc N004 1k
R23 P003 N002 4.7k
R25 Hsync N006 4.7k
R26 N003 lum 1k
Q3 N003 N005 0 0 NPN
R27 N005 N004 1k
V4 N013 0 PWL file=ntsc_PWL_signal.pwl
X§U4 N013 N007 Vcc 0 N012 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
D2 N012 N007 1N4148
R15 N007 N016 1k
R16 N016 Vcc 1.5k
R28 0 N016 1k
C9 N008 N007 100n
X§U6 0 N008 Vcc Vee N014 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R29 N008 0 10Meg
D3 N014 N008 1N4148
X§U10 N008 N009 Vcc Vee N010 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R30 N009 0 10k
R32 N010 N009 10k
R33 N011 N010 10k
X§U11 N015 N011 Vcc Vee lum level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R36 lum N011 10k
R37 N015 Vcc 10k
R38 0 N015 100k
.model D D
.lib C:\Users\Lex Leung\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Lex Leung\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 400u
.inc LM311.sub
.inc LM311.sub
* if don't want to use second power source, set 1:5 ratio on + and ground vee
* broken IC
* terrible clamp
* test between LF356 and TL052
* redundant?
* redundant?
* test if Vee or gnd
* Bypass capacitor, so only falling edge is seen
.option noopiter
* add buffer
.lib NE555.sub
.lib UniversalOpAmp2.lib
.backanno
.end
